US08975400B2
E6: 7-((2,3-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one
The title compound was prepared by a procedure similar to those described for E1 starting from 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one and (2,3-difluorophenyl)methanol.

reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
reactant | (2,3-difluorophenyl)methanol | FC1=C(C=CC=C1F)CO | C7H6F2O
product | 7-((2,3-difluorobenzyl)oxy)-1-methyl-2,3-dihydroimidazo[1,2-c]pyrimidin-5(1H)-one | FC1=C(COC=2C=C3N(C(N2)=O)CCN3C)C=CC=C1F | C14H13F2N3O2
